US04952578
Concentrated hydrochloric acid (5.67 ml) was added to a mixture of bis(trifluoroacetic acid salts) of 7β-amino-3-[3-formamido-2-(2-formyloxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (10 g) in methanol (50 ml) at ambient temperature. After being stirred at the same temperature for 3 hours, the mixture was added dropwise to ethyl acetate (500 ml). The resultant precipitate was collected by filtration to give 7β-amino-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4carboxylate trihydrochloride (6.1 g).

reactant | hydrochloric acid | 5.67 ml | Cl | ClH
reactant | 7β-amino-3-[3-formamido-2-(2-formyloxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 10 g | N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)NC=O)CCOC=O)C(=O)[O-])C1=O | C15H17N5O6S
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
product | 7β-amino-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4carboxylate trihydrochloride | 6.1 g | Cl.Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O | InChI=1S/C13H17N5O4S.3ClH/c14-8-1-2-16(17(8)3-4-19)5-7-6-23-12-9(15)11(20)18(12)10(7)13(21)22;;;/h1-2,9,12,14,19H,3-6,15H2,(H,21,22);3*1H/t9-,12-;;;/m1.../s1
